US07981882B2
5-Methoxy-1,4-dihydronaphthalene
Add powdered potassium carbonate (193.1 g, 1.397 mol) to a solution of commercially available 5,8-dihydronaphthalen-1-ol [68.08 g, 90% potency based on 1H-NMR, 0.4657 mol, from Societa Italiana Medicinala Scandicci, s.r.l., Reggello (Firenze), Italy] in ethanol (700 mL). Cool the solution to 0° C. with ice water and add dimethyl sulfate (88.1 g, 66.1 mL, 0.699 mol) dropwise, maintaining the temperature between 5° C. and 10° C. Heat the reaction mixture to 40° C. until TLC shows the absence of starting material (about 2 hr). Filter off the solids by vacuum filtration and concentrate. Dilute the residual brown oil with diethyl ether (500 mL), wash with 10% aqueous ammonium hydroxide (500 mL), water (500 mL), brine (500 mL), dry (sodium sulfate) and concentrate to give the crude product as a brown oil (73 g). Purify the crude product by short path distillation under vacuum (bp 120-130° C./5 Torr) to give the title compound as a clear oil (69.0 g, 92.5% potency corrected) (contains some 1,2,3,4-tetrahydro-5-methoxynaphthalene as an impurity).

reactant | potassium carbonate | 1.397 mol, 193.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5,8-dihydronaphthalen-1-ol | C1(=CC=CC=2CC=CCC12)O | C10H10O
reactant | dimethyl sulfate | 0.699 mol, 66.1 mL, 88.1 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | ethanol | 700 mL | C(C)O | C2H6O
product | 5-Methoxy-1,4-dihydronaphthalene | 69.0 g, 92.5% | COC1=C2CC=CCC2=CC=C1 | C11H12O
